US07538123B2
(2) 2-Allyloxy-4-methoxyaniline
2.09 g of 2-allyloxy-4-methoxynitrobenzene was dissolved in 20 ml of ethanol, 5 ml of THF, and 4 ml of water. Thereafter, 4.27 g of ammonium chloride and 2.23 g of iron were added to the reaction solution, and the obtained mixture was stirred while heating at 80° C. for 4 hours. Thereafter, 2 g of ammonium chloride, 1 g of iron, and 0.25 ml of 5 N HCl were added to the reaction solution, and the obtained mixture was further stirred while heating for approximately 2 hours. The reaction solution was stood to cool and then filtered through celite. A saturated sodium bicarbonate aqueous solution and ethyl acetate were added thereto, so as to separate an organic layer. The obtained organic layer was washed with a saturated sodium chloride solution and then dried over anhydrous magnesium sulfate. After removing the drying agent by filtration, the organic layer was concentrated under a reduced pressure, and the residue was then purified by NH silica gel column chromatography (hexane/ethyl acetate), so as to obtain 1.09 g of the subject compound.

reactant | 2-allyloxy-4-methoxynitrobenzene | 2.09 g | C(C=C)OC1=C(C=CC(=C1)OC)[N+](=O)[O-] | C10H11NO4
reactant | THF | 5 ml | C1CCOC1 | C4H8O
reactant | ammonium chloride | 4.27 g | [Cl-].[NH4+]
reactant | ammonium chloride | 2 g | [Cl-].[NH4+]
reactant | HCl | 5 N, 0.25 ml | Cl | ClH
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | iron | 2.23 g | [Fe] | Fe
catalyst | iron | 1 g | [Fe] | Fe
solvent | water | 4 ml | O | H2O
product | 2-Allyloxy-4-methoxyaniline | 1.09 g | C(C=C)OC1=C(N)C=CC(=C1)OC | C10H13NO2
